US08871756B2
To a solution of trans-3-tert-butoxycarbonylamino-4-hydroxy-pyrrolidine-1-carboxylic acid benzyl ester (3.9 g) in methanol (31 mL) and tetrahydrofuran (7 mL) was added palladium hydroxide (20 wt % Pd on carbon, 500 mg) and the mixture was stirred at room temperature under 40-45 psi of hydrogen atmosphere overnight. The resulting mixture was filtered and the filtrate was concentrated in vacuo. The residue was triturated in the mixture of ethyl acetate and diisopropylether and filtered to remove the insoluable materials. The filtrate was concentrated in vacuo to afford 2.0 g of trans-tert-butyl [4-hydroxypyrrolidin-3-yl]carbamate (yield was 94%) as a powder. MS obsd. (ESI+) [(M+H)+] 203.

reactant | trans-3-tert-butoxycarbonylamino-4-hydroxy-pyrrolidine-1-carboxylic acid benzyl ester | 3.9 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](C1)O)NC(=O)OC(C)(C)C | C17H24N2O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 31 mL | CO | CH4O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
catalyst | palladium hydroxide | 500 mg | [OH-].[Pd+2].[OH-]
product | trans-tert-butyl [4-hydroxypyrrolidin-3-yl]carbamate | 2.0 g, yield was 94% | O[C@H]1[C@@H](CNC1)NC(OC(C)(C)C)=O | C9H18N2O3
